data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_10551_1,[C:1]([C:2]([N:3]([H:9])[H:10])=[O:7])(/[C:5](=[C:4](\[O:6][H:8])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2](=[O:7])[C@:5]1([C@@:4]([N:3]([H:9])[H:10])([O:6][H:8])[H:11])[H:14],72.6469299999954
MR_309305_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:5]([H:8])[H:9])([C:4]([N:6]([H:10])[H:11])=[O:7])([H:12])[H:13]>>[C:1](\[N:3]([C:2]([H:14])([H:15])[H:16])[N:5]([H:8])[H:12])(=[C:4](/[N:6]([H:10])[H:11])[O:7][H:9])[H:13],57.1276000000131
MR_46981_1,[C:1]([O:4][H:6])([N:5]1[N:2]([H:7])[C:3]1([H:8])[H:11])([H:9])[H:10]>>[C:1]([O:4][H:6])(/[N:5]=[C:3](/[N:2]([H:7])[H:8])[H:11])([H:9])[H:10],46.40864499996724
MR_155861_0,[C:1](/[C:4](=[C:5](\[N:2]([C:3](=[C:6]([H:17])[H:18])[O:8][H:11])[O:7][H:10])[H:13])[O:9][H:12])([H:14])([H:15])[H:16]>>[C:1]([C:4]([C:3](=[C:6]([H:17])[H:18])[O:8][H:11])(/[C:5](=[N:2]\[O:7][H:10])[H:13])[O:9][H:12])([H:14])([H:15])[H:16],68.93212999999335
MR_189193_2,[C:1]([C:3]12[O:5][N:6]1[C:2]([N:4]([H:8])[H:9])=[N:7]2)([H:10])([H:11])[H:12]>>[C:1]([c:3]1[o:5][n:6][c:2]([N:4]([H:8])[H:9])[n:7]1)([H:10])([H:11])[H:12],10.087690000034542
MR_657855_1,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:6][H:9])[N:7][N:8][H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](/[C@@:5]([C:2]([H:15])([H:16])[H:17])([N:7][N:8][H:10])[H:11])[O:6][H:9])([H:12])([H:13])[H:14],30.43563250002464
MR_8942_0,[C:1]([N:4]([N:3]([C:5]([C:2]([H:12])([H:13])[H:14])=[O:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:4]([O:6]/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:3]/[H:7])[H:8])([H:9])([H:10])[H:11],72.17693249996927
MR_690540_2,[C:1]1([N:4]([H:10])[H:11])([O:7][H:9])[C:3]([N:5]([H:12])[H:13])([O:6][C:2]([H:14])([H:15])[H:16])[O:8]1>>[C:1]([C:3]([N:5]([H:12])[H:13])([O:6][C:2]([H:14])([H:15])[H:16])[O:8][H:9])([N:4]([H:10])[H:11])=[O:7],1.5932225000081246
MR_144481_1,[C:1](/[C:4]([C:2]([C:3]([H:16])([H:17])[H:18])([N:5]([H:13])[H:14])[H:12])=[N:8]/[H:15])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([C:4]1([N:5]([H:13])[H:14])[C:2]([C:3]([H:16])([H:17])[H:18])([H:12])[N:8]1[H:15])([O:6][H:9])([O:7][H:10])[H:11],73.28007750003763
MR_269959_0,[C:1]([C:2]([O:5][H:7])([H:12])[H:13])([N:3]([H:9])[H:10])(/[C:4](=[N:6]/[H:11])[H:14])[H:8]>>[C:1]([N:3]([H:9])[H:10])(/[C:4]([C:2]([O:5][H:7])([H:12])[H:13])=[N:6]\[H:11])([H:8])[H:14],61.75290249999918
MR_15808_0,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([O:6][H:7])[H:8])([N:5]([C:2]([H:11])([H:12])[H:13])[H:9])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([N:5]([C:2]([H:11])([H:12])[H:13])[H:9])[H:8])([O:6][H:7])[H:10],72.95064000001332
MR_468224_1,[C:1]([C:3]([O:6][O:5][C:2]([N:4]([H:9])[H:10])=[O:7])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:8][C:2]([N:4]([H:9])[H:10])=[O:7])[O:5][O:6]1)([H:11])([H:12])[H:13],64.34573250001606
MR_612090_1,[C:1](/[N:9]=[C:5](/[C:2]([H:17])([H:18])[H:19])[C:6]([C:3]([H:20])([H:21])[H:22])=[C:4]([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:9]1[C:4]([N:7]([H:10])[H:11])([N:8]([H:12])[H:13])[C:6]([C:3]([H:20])([H:21])[H:22])=[C:5]1[C:2]([H:17])([H:18])[H:19])([H:14])([H:15])[H:16],43.71102250000092
MR_363739_0,[C:1](=[C:7]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:9])/[C:8]([C:3]([H:16])([H:17])[H:18])=[N:4]/[O:6][H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:4]([O:6][H:10])[C:8]([C:3]([H:16])([H:17])[H:18])=[C:7]1[C:5]([C:2]([H:13])([H:14])[H:15])=[O:9],40.811972500008125
MR_216263_1,[C:1]([C:4]([N:2]([C:3]([N:5]([H:10])[H:11])=[O:8])[O:7][H:9])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:4](=[C:6]([H:15])[H:16])[O:8]/[C:3](=[N:2]\[O:7][H:9])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14],59.95574249997091
MR_129897_0,[C:1]([C:3]([C:2]([C:4](=[O:7])[H:8])=[O:5])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([C:4](=[O:7])[H:8])[C:2](=[O:5])[O:6]1)([H:9])([H:10])[H:11],45.98068999997764
MR_44465_1,[C:1]([C:5]([C:2]([H:14])([H:15])[H:17])=[C:4](/[C:6](=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:11])[H:10])[O:8][H:9])([H:12])([H:13])[H:16]>>[C:1]([C:5]1([C:2]([H:14])([H:15])[H:17])[C:4]([O:8][H:9])=[C:6]([H:10])[C:7]1([C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:16],46.90374250000133
MR_476306_2,[C:1]([C:3]([C:2](/[C:4](=[N:6]\[H:8])[H:9])=[O:7])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:4]1([H:9])[C:2](=[O:7])[N:6]1[H:8])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12],73.29639249999644
MR_566438_1,[C:1](\[C:3]([H:13])([H:14])[H:15])([N:7]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[C:9]([C:4]([H:16])([H:17])[H:18])=[O:10])[H:11])=[N:8]\[H:12]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:7]([H:11])[C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[C:9](=[O:10])[N:8]1[H:12],66.87644000001143
MR_22124_2,[C:1](=[C:4]([C:5]([C:3]([H:15])([H:16])[H:17])([O:6][C:2]([H:12])([H:13])[H:14])[H:11])[O:7][H:8])([H:9])[H:10]>>[C:1](/[C:4](=[C:5](/[C:3]([H:15])([H:16])[H:17])[H:11])[O:7][H:8])([O:6][C:2]([H:12])([H:13])[H:14])([H:9])[H:10],63.63854000001808
